US07265152B2
Preparation of 2-(4-fluoro-phenyl)-5-isopropoxy-6-[methanesulfonyl-(2-oxo-propyl)-amino]-benzofuran-3-carboxylic acid methylamide
2-(4-Fluoro-phenyl)-5-isopropoxy-6-methanesulfonylamino-benzofuran-3-carboxylic acid methylamide (0.093 g, 0.221 mmol, which can be prepared according to one of the procedures described in Example 21) was dissolved in 2-butanone (20 mL). Potassium carbonate (0.20 g, 1.45 mmol) and chloroacetone (0.10 mL, 1.25 mmol) were added at 20° C. The reaction mixture was refluxed for 2 hours, cooled to room temperature and concentrated. The crude product was dissolved in ethyl acetate and washed with 1M hydrochloric acid. The organic layer was concentrated, and the product was purified by flash chromatography (silica gel, ethyl acetate/hexanes gradient) to provide 99 mg (94%) of the title compound as a white solid

reactant | 2-(4-Fluoro-phenyl)-5-isopropoxy-6-methanesulfonylamino-benzofuran-3-carboxylic acid methylamide | CNC(=O)C1=C(OC2=C1C=C(C(=C2)NS(=O)(=O)C)OC(C)C)C2=CC=C(C=C2)F | C20H21FN2O5S
reactant | Potassium carbonate | 1.45 mmol, 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 1.25 mmol, 0.10 mL | ClCC(C)=O | C3H5ClO
solvent | 2-butanone | 20 mL | CC(CC)=O | C4H8O
product | 2-(4-fluoro-phenyl)-5-isopropoxy-6-[methanesulfonyl-(2-oxo-propyl)-amino]-benzofuran-3-carboxylic acid methylamide | 99 mg, 94% | CNC(=O)C1=C(OC2=C1C=C(C(=C2)N(CC(C)=O)S(=O)(=O)C)OC(C)C)C2=CC=C(C=C2)F | C23H25FN2O6S
